US07786114B2
To a solution of 0.3 g of 3-[4-chloromethyl-1-(toluene-4-sulfonyl)-1H-pyrrolo[2,3-b]pyridin-2-yl]-5,6-dimethoxy-1-methyl-1H-pyrrolo[3,2-b]pyridine in 30 cm3 of acetonitrile, at a temperature in the region of 20° C., are added 0.066 cm3 of phenol and 0.486 g of potassium carbonate. The reaction medium is heated at 80° C. for 18 hours. After cooling, the reaction medium is filtered through a sinter funnel and the filtrate is concentrated under reduced pressure. The residue obtained is taken up in 5 cm3 of water and 10 cm3 of dichloromethane. After separation of the phases by settling, the organic phase is dried over magnesium sulfate, filtered and then concentrated under reduced pressure. After purification by flash column chromatography (SiO2, dichloromethane/ethyl acetate 97.5/2.5 by volume as eluents), 0.140 g of 5,6-dimethoxy-1-methyl-3-[4-phenoxymethyl-1-(toluene-4-sulfonyl)-1H-pyrrolo[2,3-b]pyridin-2-yl]-1H-pyrrolo[3,2-b]pyridine is obtained with the following characteristics:

reactant | 3-[4-chloromethyl-1-(toluene-4-sulfonyl)-1H-pyrrolo[2,3-b]pyridin-2-yl]-5,6-dimethoxy-1-methyl-1H-pyrrolo[3,2-b]pyridine | 0.3 g | ClCC1=C2C(=NC=C1)N(C(=C2)C2=CN(C=1C2=NC(=C(C1)OC)OC)C)S(=O)(=O)C1=CC=C(C=C1)C | C25H23ClN4O4S
reactant | phenol | 0.066 cm3 | C1(=CC=CC=C1)O | C6H6O
reactant | potassium carbonate | 0.486 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 30 cm3 | C(C)#N | C2H3N
solvent | water | 5 cm3 | O | H2O
solvent | dichloromethane | 10 cm3 | ClCCl | CH2Cl2
product | 5,6-dimethoxy-1-methyl-3-[4-phenoxymethyl-1-(toluene-4-sulfonyl)-1H-pyrrolo[2,3-b]pyridin-2-yl]-1H-pyrrolo[3,2-b]pyridine | 0.140 g | COC1=C(C=C2C(=N1)C(=CN2C)C2=CC=1C(=NC=CC1COC1=CC=CC=C1)N2S(=O)(=O)C2=CC=C(C=C2)C)OC | C31H28N4O5S
